US07807673B2
The title compound was synthesized from 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-{[2-(diethylamino)ethyl]oxy}phenyl)-2-pyrimidinamine using acylation with 2-thienylacetyl chloride as described in Example 10, Step E to yield a light brown solid in 57% yield. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.8 (s, 5H) 3.8 (d, J=0.9 Hz, 3H) 3.9 (s, 1H) 4.2 (s, 1H) 6.5 (d, J=5.3 Hz, 1H) 6.6 (s, 1H) 6.9 (m, 6H) 7.1 (s, 3H) 7.2 (s, 1H) 7.4 (m, 1H) 7.6 (s, 1H) 7.7 (s, 1H) 7.9 (s, 1H) 8.2 (d, J=5.5 Hz, 1H) 8.5 (s, 1H) 8.8 (m, 1H) 9.6 (s, 1H) 10.4 (s, 1H). ES-LC/MS m/z 590 [M+H]+.

reactant | 4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-(3-{[2-(diethylamino)ethyl]oxy}phenyl)-2-pyrimidinamine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)OCCN(CC)CC | C29H31N7O
reactant | 2-thienylacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | N-[3-(3-{2-[(3-{[2-(Dimethylamino)ethyl]oxy}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-(2-thienyl)acetamide | 57% yield | CN(CCOC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O)C | C33H31N7O2S
